Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
I feel shaky
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt is a ___ year old woman who presents to ED from opthomologists 
office after she began feeling shaky, nauseous and weak. Blood 
sugar was noted to be 308 and she was sent to the ED. She felt 
nauseous this morning and did not eat breakfast or take her 
medications, including her insulin. She notes she has been 
feeling generally weak for the last month and fatigued for about 
6 months. She has been taking prednisone daily since a 
hospitalization in ___ for PNA and new onset AFib. 
Additionally, she developed sunburn over both feet 5 weeks ago, 
and developed ulcerating blisters for which she has been taking 
amoxicillin for the last 5 weeks. She has noted diarrhea with 
the amoxicillin. She denies recent fevers or chills. She 
believes her foot blisters are healing and denies pain. No chest 
pain. Noticed foul smelling urine this morning.     
.  
In the ED, initial vs were: T97.9 P 74 BP 150/60 R 18 O2 sat 
97%2L. UA was notable for likely infection. Labs showed BG 361, 
anion gap of 21, and positive ketones in the urine, and lactate 
of 4.6. Patient was given her home insulin dose of 42 units 
70/30 and 1 g ceftriaxone for presumed UTI. Pt recieved total of 
2 L IVF's and her BG decreased to 254, gap reduced to 18 and 
lactate decreased to 4.0. She was transferred to the floor for 
further management.   
.  
Review of systems:  
(+) Per HPI. Also notes recent weight gain while on prednisone 
along with fatigue and weakness. 
(-) Denies fever, chills, or recent weight loss. Denies 
headache, sinus tenderness, rhinorrhea or congestion. Denied 
cough, shortness of breath. Denied chest pain or tightness, 
palpitations. Denied arthralgias or myalgias.  
 
Past Medical History:
-IDDM c/b retinopathy
-HTN
-AFib, diagnosed during hospitalization in ___
-s/p hysterectomy, rt breast benign tumor removal, and 
debridement of left foot infection 
 
Social History:
___
Family History:
- 6 children, one daughter died last year from ?complications of 
hemachromatosis (runs in late husband's side of family)
- Mother died of complications of diabetes, another brother with 
DM
- No known history of cardiovascular disease or stroke
 
Physical Exam:
FEX ON ADMISSION
Vitals: T: 98.4 BP: 176/96 P: 86 R: 20 O2:  96%RA 
General: Pleasant elderly woman. Alert and oriented. Somewhat 
tremulous but appears comfortable.  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, diffusely enlarged nontender 
thyroid   
Lungs: Wet crackles at bases, Nonlabored and speaking in full 
sentences.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Obese, moderately distended. Positive bowel sounds. No 
fluid shift noted. Non-tender, difficult to evaluate for 
organomegaly  
Ext: ___ nonpitting edema of lower extremities. No clubbing or 
cyanosis. 1+ DP pulses. 2+ radial.
Neuro: CNs2-12 intact, Strength ___ throughout. No gross sensory 
loss.
Skin: Poorly demarcated erythema over bilateral lower 
extremities up to mid shin. 1-2cm healing ulcer on dorsum of 
left foot, and smaller 1 cm healing ulcer on dorsum of rt foot. 
Diffusely dry skin with leathery changes over the waistband area 
on abdomen on right side.

FEX ON DISCHARGE
Vitals: T: 97.9 BP: 127/59 P: 73 R: 20 O2:  93%RA 
General: Pleasant elderly woman. Alert and oriented. 
Comfortable.
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, diffusely enlarged nontender 
thyroid   
Lungs: Wet crackles halfway up bilaterally, mild expiratory 
wheeze anteriorly. Nonlabored and speaking in full sentences.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Obese, moderately distended. Positive bowel sounds. No 
fluid shift noted. Non-tender, difficult to evaluate for 
organomegaly  
Ext: ___ nonpitting edema of lower extremities. No clubbing or 
cyanosis. 1+ DP pulses. 2+ radial.
Neuro: CNs2-12 intact, Strength ___ throughout. No gross sensory 
loss.
Skin: Poorly demarcated erythema over bilateral lower 
extremities up to mid shin. 1-2cm healing ulcer on dorsum of 
left foot, and smaller 1 cm healing ulcer on dorsum of rt foot. 
Diffusely dry skin with leathery changes over the waistband area 
on abdomen on right side. 
 
Pertinent Results:
___ 11:55AM BLOOD WBC-8.8 RBC-4.40 Hgb-14.6 Hct-40.3 MCV-92 
MCH-33.1* MCHC-36.1* RDW-13.5 Plt ___
___ 06:30AM BLOOD WBC-7.3 RBC-3.88* Hgb-12.8 Hct-35.0* 
MCV-90 MCH-33.1* MCHC-36.7* RDW-13.7 Plt ___

___ 03:30PM BLOOD ___ PTT-36.7* ___
___ 06:30AM BLOOD ___ PTT-36.0* ___

___ 11:55AM BLOOD Glucose-361* UreaN-19 Creat-0.8 Na-136 
K-3.6 Cl-95* HCO3-24 AnGap-21*
___ 02:50PM BLOOD Glucose-306* UreaN-17 Creat-0.8 Na-137 
K-4.1 Cl-98 HCO3-25 AnGap-18
___ 06:30AM BLOOD Glucose-158* UreaN-11 Creat-0.6 Na-144 
K-4.2 Cl-105 HCO3-31 AnGap-12

___ 06:30AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.3*

___ 02:59PM BLOOD pO2-78* pCO2-46* pH-7.37 calTCO2-28 Base 
XS-0 Comment-GREEN TOP

___ 02:59PM BLOOD Glucose-281* Lactate-4.6* Na-137 K-4.2 
Cl-97*
___ 05:33PM BLOOD Glucose-254* Lactate-4.0*
___ 09:04PM BLOOD Lactate-3.4*
___ 07:27AM BLOOD Lactate-2.1*

___ 02:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:10PM URINE Blood-MOD Nitrite-POS Protein-30 
Glucose-500 Ketone-40 Bilirub-NEG Urobiln-0.2 pH-5.0 Leuks-NEG
___ 02:10PM URINE RBC-0 ___ Bacteri-MANY Yeast-NONE 
Epi-0

___ 2:10 pm URINE     Site: NOT SPECIFIED      OLD S# 
___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 
ECGStudy Date of ___  11:34:48 AM
 
Atrial fibrillation with a controlled ventricular response. 
Non-specific
ST-T wave changes. No previous tracing available for comparison.
 
Read ___.
 ___
___
CXR ___

FINDINGS: Frontal and lateral views of the chest were obtained. 
There are
slightly low lung volumes, which accentuate the bronchovascular 
markings.
Given this, no focal consolidation, pleural effusion, or 
pneumothorax is seen. Cardiac and mediastinal silhouettes are 
unremarkable. There are aortic calcifications.
IMPRESSION: Low lung volumes which accentuate the 
bronchovascular markings.
Given this, no acute cardiopulmonary process.
 
Brief Hospital Course:
___ year old woman with IDDM and AFib on coumadin who presents to 
ED from clinic after feeling nauseous, light headed, dizzy and 
found to have BG of 308.

ACTIVE PROBLEMS

1. High blood sugar: Patient with long history of diabetes and 
difficult to control BS. Urine was positive for ketones in ED 
with BG >300 and anion gap of 21. Patient had been feeling 
nauseated and did not eat or take her insulin on the morning of 
admission. She was given her home insulin dose of 44 units 70/30 
along with 2L NS in the ED. On the floor she was continued on 
home insulin of 42 units 70/30 in the evening along with HISS. 
BG morning of discharge was 158. K was trended and remained 
stable.

2. Elevated lactate: Lactate was 4.6 on admission. Etiology was 
thought to be combination of increased diarrhea, possible UTI, 
and dehydration due to elevated blood sugar. Patient was given 
2L normal saline in the ED and an additional liter overnight. 
Morning of discharge, lactate had trended down to 2.1 and 
patient felt at her baseline.

3. UTI: UA in the ED showed evidence of infection. She recieved 
1 dose of ceftriaxone in ED and was transitioned to bactrim DS 
bid on the floor. She was discharged to complete 5 days of 
treatment. Urine culture returned after discharge and showed 
likely fecal contamination.

4. AFib: Patient found to be in atrial fibrillation with good 
ventricular rate control. She was maintained on home dose of 
metoprolol tartrate for rate control. She is on coumadin 
prophylaxis and INR was noted to be 3.7 on admission. Coumadin 
was held and on day of discharge again noted to be high at 3.8. 
Patient was instructed to again hold her coumadin dose and was 
instructed to follow closely with her ___ clinic and PCP.

5. Foot ulcers: Appeared after sunburn 5 weeks ago. Blistered 
and developed into weeping ulcers on dorsum of feet bilaterally 
with edema and poorly demarcated erythema. Has been on 
amoxicillin bid during this time during which patient developed 
diarrhea. Ulcers were shallow and appeared to be healing well. 
Did not appear to be clinically infected and amoxicillin was 
discontinued. Patient was started on bactrim for 5 days as 
above.

6. Diarrhea: Appears to be side effect of amoxicillin. 
Considering lack of white count and nonmalignant course, there 
was low suspicion for CDiff. 

CHRONIC PROBLEMS

1. HTN: Patient was hypertensive on floor night of admission to 
170's SBP. She had not recieved home meds. She was given her 
home regimen of amlodipine 10, diovan 160, and metoprolol 
tartrate 50 bid. She was normotensive day of discharge.

OUTSTANDING STUDIES
-Blood cultures: No growth to date at time of writing

TRANSITIONAL ISSUES
-Please check INR and adjust coumadin as needed as patient was 
supratherapeutic on admission and discharge.
 
Medications on Admission:
- Metformin 1000bid
- Gabapentin 100qhs
- Metoprolol 50 bid
- Omeprazole 40 bid
- Torsemide 10 bid
- Amlodipine 10
- Diovan 160
- Warfarin 4mg daily
- Ativan 0.5 mg prn
- Insulin 70/30 44 qam and 42 with dinner
 
Discharge Medications:
1. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
2. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for Insomnia.  
3. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

4. valsartan 160 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. insulin NPH & regular human 100 unit/mL (70-30) Suspension 
Sig: ___ (44) units Subcutaneous qam.  
6. insulin NPH & regular human 100 unit/mL (70-30) Suspension 
Sig: ___ (42) units Subcutaneous With dinner.  
7. gabapentin 100 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
8. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
9. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 4 days.
Disp:*8 Tablet(s)* Refills:*0*
10. torsemide 5 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
11. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lactic acidosis
Hyperglycemia
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you were feeling weak and 
shaky at your eye doctor's office. We found that you had high 
blood sugar along with a urinary tract infection. Additionally, 
a marker in your blood called lactate was elevated, which is 
usually an indication that you aren't getting enough blood to 
your body. We gave you insulin and fluids and your blood sugar 
and lactate levels came down nicely. Additionally, we gave you 
antibiotics for your UTI, which you will need to take for four 
more days. Please note the following changes we have made to 
your medications:

STOP Amoxicillin
STOP Prednisone
START Bactrim DS 1 tab twice daily for 4 more days

Please be sure to check your blood sugar regularly, and let your 
primary care doctor now if it gets above 300. Please note the 
following appointment with Dr. ___ have already 
scheduled. It has been a pleasure taking care of you.

You should discuss with your primary care doctor why you are not 
on aspirin or a cholesterol medication, if you need these.
 
Followup Instructions:
___